US06462042B1
Intermediate 13 4Phenylcyclohexanone Oxime
To a stirred solution of 4-phenylcyclohexanone (5 g) in ethanol (100 ml) and acetic acid (16.4 ml) was added aqueous hydroxylamine (50%, 4.5 ml). The reaction was heated at reflux for 16 h, before being allowed to cool, and diluted with dichloromethane (100 ml). The reaction was washed with aqueous sodium bicarbonate (sat, 2×50 ml), the organic layer dried over magnesium sulphate (2 g) and the solvent removed in vacuo to yield a white solid. This was purified by flash chromatography (silica, eluent 50% ethyl acetate/hexane), to yield the title compound as a white solid (5.1 g).

reactant | 4-phenylcyclohexanone | 5 g | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
reactant | hydroxylamine | 4.5 ml | NO | H3NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | acetic acid | 16.4 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4Phenylcyclohexanone Oxime | 5.1 g | C1(=CC=CC=C1)C1CCC(CC1)=NO | C12H15NO
